### PR TITLE
[Merged by Bors] - feat(MvPolynomial/PDeriv): Euler's (weighted) homogeneous identity

### PR DESCRIPTION
**Pull request by alreadydone**
If $f$ is a weighted homogeneous polynomial of degree $n$ with a finite set of variables $\\{X_i \mid i \in \sigma\\}$, then $n\cdot f = \sum_{i \in \sigma} w_i X_i \frac{\partial f}{\partial X_i}$, where $w_i$ are the weights.

---

- [x] depends on: #13978

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alreadydone** [comment]
My current plan to fix the error is to split MvPolynomial out of the Kaehler file ... will do tomorrow.

**Comment by Multramate** [comment]
Presumably (since you asked me to review this), we want to prove `Jacobian.polynomial_relation` as an analogue of `Affine.polynomial_relation`? On the other hand that can be proven directly by `linear_combination`...

**Comment by alreadydone** [comment]
I don't think there's Affine.polynomial_relation, do you mean Projective? It's a bit painful to prove homogeneity, but I think it's a result we should have:
```
lemma polynomial_isWeightedHomogeneous : W'.polynomial.IsWeightedHomogeneous ![2, 3, 1] 6 := by
  rw [← mem_weightedHomogeneousSubmodule]
  refine sub_mem (add_mem (add_mem ?_ ?_) ?_) (add_mem (add_mem (add_mem ?_ ?_) ?_) ?_)
  · exact (isWeightedHomogeneous_X _ _ _).pow _
  · exact (((isWeightedHomogeneous_C ..).mul <| isWeightedHomogeneous_X ..).mul <|
      isWeightedHomogeneous_X ..).mul (isWeightedHomogeneous_X ..)
  · exact ((isWeightedHomogeneous_C ..).mul <| isWeightedHomogeneous_X ..).mul <|
      (isWeightedHomogeneous_X ..).pow _
  · exact (isWeightedHomogeneous_X _ _ _).pow _
  · exact ((isWeightedHomogeneous_C ..).mul <| (isWeightedHomogeneous_X ..).pow _).mul <|
      (isWeightedHomogeneous_X ..).pow _
  · exact ((isWeightedHomogeneous_C ..).mul <| isWeightedHomogeneous_X ..).mul <|
      (isWeightedHomogeneous_X ..).pow _
  · exact (isWeightedHomogeneous_C ..).mul <| (isWeightedHomogeneous_X ..).pow _
```
Once it's proven, `polynomial_relation` should be easy.

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean [hunk 1]
```diff
@@ -77,6 +78,20 @@ theorem pderiv_monomial {i : σ} :
     · simp
 #align mv_polynomial.pderiv_monomial MvPolynomial.pderiv_monomial
 
+lemma _root_.Finsupp.sub_add_single_one_cancel {m : σ →₀ ℕ} {i : σ} (hi : m i ≠ 0) :
```
Comment (semorrison) [inline Mathlib/Algebra/MvPolynomial/PDeriv.lean:81]: Please move to appropriate file.

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean [hunk 2]
```diff
@@ -5,6 +5,7 @@ Authors: Shing Tak Lam, Yury Kudryashov
 -/
 import Mathlib.Algebra.MvPolynomial.Derivation
 import Mathlib.Algebra.MvPolynomial.Variables
+import Mathlib.RingTheory.MvPolynomial.Homogeneous
```
Comment (semorrison) [inline Mathlib/Algebra/MvPolynomial/PDeriv.lean:8]: Please create a new file for this result, to avoid the import increase.

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Algebra/MvPolynomial/PDeriv.lean]: Moved.

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Algebra/MvPolynomial/PDeriv.lean]: Created new file, although importing PDeriv into Homogeneous instead only adds 6 trans imports.

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean [hunk 3]
```diff
@@ -72,6 +72,13 @@ theorem pderiv_monomial {i : σ} :
   · rw [Finsupp.not_mem_support_iff] at hi; simp [hi]
   · simp
 
+lemma X_mul_pderiv_monomial {i : σ} {m : σ →₀ ℕ} {r : R} :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/PDeriv.lean:75]: Maybe some of the variable should be explicit?

File: Mathlib/Data/Finsupp/Weight.lean [hunk 4]
```diff
@@ -105,6 +105,13 @@ theorem NonTorsionWeight.ne_zero [NonTorsionWeight w] (s : σ) :
   apply Nat.zero_ne_one.symm
   exact NonTorsionWeight.eq_zero_of_smul_eq_zero h
 
+variable {w} in
+lemma weight_sub_single_add {f : σ →₀ ℕ} {i : σ} (hi : f i ≠ 0) :
```
Comment (riccardobrasca) [inline Mathlib/Data/Finsupp/Weight.lean:109]: I think we can keep `w` explicit.

File: Mathlib/RingTheory/MvPolynomial/EulerIdentity.lean [hunk 5]
```diff
@@ -0,0 +1,73 @@
...
+/-- Euler's identity for weighted homogeneous polynomials. -/
+theorem IsWeightedHomogeneous.sum_weight_X_mul_pderiv {w : σ → ℕ}
+    (h : φ.IsWeightedHomogeneous w n) : ∑ i : σ, w i • (X i * pderiv i φ) = n • φ := by
+  rw [← mem_weightedHomogeneousSubmodule, weightedHomogeneousSubmodule_eq_finsupp_supported,
+    supported_eq_span_single] at h
+  refine Submodule.span_induction ?_ ?_ (fun p q _ _ hp hq ↦ ?_) (fun r p _ h ↦ ?_) h
+  · rintro _ ⟨m, hm, rfl⟩
+    simp_rw [single_eq_monomial, X_mul_pderiv_monomial, smul_smul, ← sum_smul, mul_comm (w _)]
+    congr
+    rwa [Set.mem_setOf, weight_apply, sum_fintype] at hm
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPolynomial/EulerIdentity.lean:62]: I didn't open VS Code, so I may be wrong, but the `rwa` tells me you have two goals here. Can you use the central dot if this is the case?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/MvPolynomial/PDeriv.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Algebra/MvPolynomial/PDeriv.lean:75]: Since each of `i` `m` and `r` appear in both side of the equality, I think this is good as is. You can see I don't need to specify any implicit arguments when rewriting with it.

File: Mathlib/Data/Finsupp/Weight.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Data/Finsupp/Weight.lean:109]: That would mean `weight_sub_single_add hi` below will become `weight_sub_single_add _ hi` or `weight_sub_single_add w hi` ...

File: Mathlib/RingTheory/MvPolynomial/EulerIdentity.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/MvPolynomial/EulerIdentity.lean:62]: There's a linter for multiple goals now. It's [Finsupp.sum_fintype](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/BigOperators/Finsupp.html#Finsupp.sum_fintype) that creates a side goal.

File: Mathlib/Data/Finsupp/Weight.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/Data/Finsupp/Weight.lean:109]: OK, no problem.

**Comment by alreadydone** [comment]
Thanks!
bors r+

File: Mathlib/Data/Finsupp/Weight.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Data/Finsupp/Weight.lean:109]: I assumed that you mean keeping {w} implicit is no problem, but now I realize you might mean adding an underscore is no problem ... Can you clarify and should I make a PR to change anything?
